US04963561
A mixture of 92.71 g 2-chloro-3-cyano-6-methyl-5-phenylpyridine, 1000 ml concentrated ammonium hydroxide and 400 ml ethanol was heated in an autoclave at 185° C. for 30 hours. The reaction mixture was cooled in ice, neutralized with acetic acid and stirred at room temperature for 2 hours. The solid product was collected, washed with water (800 ml) and a small amount of ethanol, and dried in a vacuum oven at 85° C. to give 75.61 g (82%) of 2-amino-6-methyl-5-phenyl-3-pyridinecarboxylic acid, m.p. 298-300° C.

reactant | 2-chloro-3-cyano-6-methyl-5-phenylpyridine | 92.71 g | ClC1=NC(=C(C=C1C#N)C1=CC=CC=C1)C | C13H9ClN2
reactant | ammonium hydroxide | 1000 ml | [OH-].[NH4+]
reactant | ethanol | 400 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-amino-6-methyl-5-phenyl-3-pyridinecarboxylic acid | 75.61 g, 82% | NC1=NC(=C(C=C1C(=O)O)C1=CC=CC=C1)C | C13H12N2O2
